US07618961B2
Ethyl (2-{[(4-nitrophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-nitrobenzenesulfonyl chloride according to METHOD A, giving 8.66 g (46%) of product: MS (Ionspray, [M+H]+) m/z 372; Anal. Calcd. (found) for C13H13N3O6S2: C, 42.0 (42.5)%; H, 3.5 (3.3)%; N, 11.3 (11.4)%.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | Ethyl (2-{[(4-nitrophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C13H13N3O6S2
